US07994185B2
N-{5-[5-{2-[(2,2-Difluoroethyl)amino]-4-pyrimidinyl}-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (100 mg, 0.190 mmol) and 2,2-difluoroethylamine (300 μL, 3.92 mmol) the title compound was obtained as a white powder (57 mg, 0.100 mmol, 52.5% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.94 (s, 1H), 8.15 (d, J=5.1 Hz, 1H), 7.65-7.75 (m, 2H), 7.38-7.44 (m, 2H), 7.27 (q, J=7.5 Hz, 3H), 6.30 (bs, 1H), 3.63 (bs, 2H), 3.27-3.31 (m, 1H), 1.36 (d, J=7.0 Hz, 6H). MS (ESI): 569.9 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.190 mmol, 100 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C22H16ClF3N4O2S2
reactant | 2,2-difluoroethylamine | 3.92 mmol, 300 μL | FC(CN)F | C2H5F2N
product | N-{5-[5-{2-[(2,2-Difluoroethyl)amino]-4-pyrimidinyl}-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | FC(CNC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)F | C24H20F5N5O2S2
